US07601873B2
A mixture was prepared by mixing 4.0 g (21 mmol) of 4-bromo-o-phenylenediamine, 14 mL of thionyl chloride and 0.62 mL of concentrated sulfuric acid and was refluxed for one hour. This mixture was cooled and then poured onto ice, and a resulting precipitate was filtered and collected. This precipitate was washed with water till the waste water became neutral and then thoroughly dried to yield 4.5 g of 5-bromo-2,1,3-benzothiadiazole as a crude product (melting point, 48 to 50° C.; yield, 96.5%). This crude product was vacuum-distilled to yield a pure product of 5-bromo-2,1,3-benzothiadiazole (melting point, 50° C.; yield, 86%).

reactant | 4-bromo-o-phenylenediamine | 21 mmol, 4.0 g | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | thionyl chloride | 14 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuric acid | 0.62 mL | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-2,1,3-benzothiadiazole | 4.5 g | BrC1=CC=2C(=NSN2)C=C1 | C6H3BrN2S
